US08809336B2
12A. 6-Amino-5-(2,2-diethoxy-ethyl)-2-mercapto-pyrimidin-4-ol
To ethanol (200 ml) was added sodium (2.05 g, 89 mmol) in small portions. The solution was stirred until complete dissolution of the sodium metal. 2-Cyano-4,4-diethoxy-butyric acid ethyl ester (J. Chem. Soc., 1960, 131-138) (9.292 g, 40.5 mmol) was then added as a solution in ethanol (50 ml), followed by addition of thiourea (3.08 g, 40.4 mmol). The solution was heated at 85° C. for 18 hours, and then cooled to room temperature. The solution was concentrated, and saturated aqueous ammonium chloride solution (150 ml) was added. The mixture was stirred at room temperature for 18 hours, after which time the solid was collected by filtration, and washed with water (20 ml) to yield the product (3.376 g, 36%).

reactant | sodium | 89 mmol, 2.05 g | [Na] | Na
reactant | 2-Cyano-4,4-diethoxy-butyric acid ethyl ester | 40.5 mmol, 9.292 g | C(C)OC(C(CC(OCC)OCC)C#N)=O | C11H19NO4
reactant | thiourea | 40.4 mmol, 3.08 g | NC(=S)N | CH4N2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-Amino-5-(2,2-diethoxy-ethyl)-2-mercapto-pyrimidin-4-ol | 3.376 g, 36% | NC1=C(C(=NC(=N1)S)O)CC(OCC)OCC | C10H17N3O3S
